US06872731B2
A solution of 3-(3-methoxyphenyl)-7-methylimidazo[1,2-α]pyridine (19 g, 80 mmol) in hydrogen bromide (160 ml of a 45% w/v solution in acetic acid) was heated at reflux for 18 hours. The cooled reaction was poured into sodium hydroxide solution (800 ml of a 4M aqueous solution), the pH adjusted to 7 with acetic acid and the resulting cream-coloured solid filtered and dried under vacuum at 60° C. to yield 3-(7-methylimidazo[1,2-α]pyridin-3-yl)phenol (18 g, 95%). 1H NMR (400 MHz, CDCl3) δH 6.79-6.83 (2H, m), 6.96-7.01 (2H, m), 7.30-7.33 (1H, m), 7.41 (1H, s), 7.62 (1H, s), 8.42 (1H, d, J 7); m/z (ES+) 225 (M++H).

reactant | 3-(3-methoxyphenyl)-7-methylimidazo[1,2-α]pyridine | 80 mmol, 19 g | COC=1C=C(C=CC1)C1=CN=C2N1C=CC(=C2)C | C15H14N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(7-methylimidazo[1,2-α]pyridin-3-yl)phenol | 18 g, 95% | CC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)O | C14H12N2O
